US06395919B1
(b) Preparation of (R)-2-Cyano-5-(3-carbethoxypropyl)phenyl Glycidyl Ether
Using the method of example 30(b), vide supra, ethyl 4-(4-cyano-3-hydroxyphenyl)butanoate (1.4 g, 6 mmol) and (R)-glycidyl nosylate (1.48 g, 5.71 mmol) were used to prepare 1.47 g (88%) of the title compound as a white solid.

reactant | ethyl 4-(4-cyano-3-hydroxyphenyl)butanoate | 6 mmol, 1.4 g | C(#N)C1=C(C=C(C=C1)CCCC(=O)OCC)O | C13H15NO3
reactant | (R)-glycidyl nosylate | 5.71 mmol, 1.48 g | S(=O)(=O)(OC[C@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
product | (R)-2-Cyano-5-(3-carbethoxypropyl)phenyl Glycidyl Ether | 1.47 g, 88% | C([C@H]1CO1)OC1=C(C=CC(=C1)CCCC(=O)OCC)C#N | C16H19NO4
